US05238956
A solution of (E,E)-methyl 3-methoxy-2-[2-(methyl(3-trifluoromethylphenyl)oximinomethyl)phenyl]propenoate (2.0 g as prepared in EP-A-0370629) in dichloromethane (20 ml) was added to potassium permanganate (0.93 g) in water (20 ml) containing tetra-n-hexyl-ammonium hydrogensulphate (0.1 g). After stirring for 2 hours, the reaction mixture was poured into sodium metabisulphite solution (40 mls of a 10% aqueous solution) and extracted with dichloromethane. The combined organic extracts were dried, concentrated and chromatographed using a mixture of ether and hexane (1:1) as the eluant to give (E)-methyl 2-[methyl(3-trifluoromethylphenyl)oximinomethyl]phenylglyoxalate (1.01 g, 54% yield) as a clear oil; 1H NMR: δ 2.31(3H,s), 3.92(3H,s), 5.60(2H,s), 7.4-7.9(8H,m) ppm; IR maxima (film): 1740, 1686 cm-1.

reactant | (E,E)-methyl 3-methoxy-2-[2-(methyl(3-trifluoromethylphenyl)oximinomethyl)phenyl]propenoate | 2.0 g | CO/C=C(/C(=O)OC)\C1=C(C=CC=C1)/C(=N/OC)/C1=CC(=CC=C1)C(F)(F)F | C20H18F3NO4
reactant | potassium permanganate | 0.93 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
catalyst | tetra-n-hexyl-ammonium hydrogensulphate | 0.1 g | S(=O)(=O)(O)[O-].C(CCCCC)[N+](CCCCCC)(CCCCCC)CCCCCC
product | (E)-methyl 2-[methyl(3-trifluoromethylphenyl)oximinomethyl]phenylglyoxalate | 1.01 g, 54% yield | CO\N=C(\C1=C(C=CC=C1)C(C(=O)OC)=O)/C1=CC(=CC=C1)C(F)(F)F | C18H14F3NO4
